US07470710B2
(RS)-1-[2-(4-Cyano-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)2-methylthiazol-4-yl]methanone
A mixture of (RS)-1-[2-(4-bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl ]1-[5-(4-fluorophenyl)2-methylthiazol-4-yl]methanone, E66 (216 mg, 0.42 mmol) and copper(I)cyanide (76 mg, 0.84 mmol) in N-methylpyrrolidinone (15 ml) was heated at reflux for 3 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate (2×). Solid sodium chloride was added to the aqueous layer which was further extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried (Na2SO4) and the solvent removed in vacuo. The residue was Chromatograped (silica gel, 10-100% ethyl acetate-hexane then 1-20% methanol-ethyl acetate). Further purification by HPLC (Supercosil ABZ+, 5-95% acetonitrile containing 0.1% trifluoroacetic acid-water containing 0.1% trifluoroacetic acid) afforded the title compound as a pale brown amorphous solid (5.3 mg, 3%).

reactant | (RS)-1-[2-(4-bromo-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl ]1-[5-(4-fluorophenyl)2-methylthiazol-4-yl]methanone | BrC1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H22BrFN4OS
reactant | copper(I)cyanide | 0.84 mmol, 76 mg | [Cu]C#N
reactant | water | O | H2O
solvent | N-methylpyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | (RS)-1-[2-(4-Cyano-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluorophenyl)2-methylthiazol-4-yl]methanone | 5.3 mg, 3% | C(#N)C1=CC=CC=2NC(=NC21)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H22FN5OS
